US06337306B1
A mixture of 9.6 g of methyl 2-(3-methylphenoxy)-3-methoxyacrylate, 8.0 g of N-bromosuccinimide and a catalytic amount of azobisisobutyronitrile was heated at reflux in carbon tetrachloride for 4 hours. After cooling, the solid was filtered, the filtrate evaporated, and purified by silica gel column chromatography to give methyl 2-(3-bromomethylphenoxy)-3-methoxyacrylate (6.5 g).

reactant | methyl 2-(3-methylphenoxy)-3-methoxyacrylate | 9.6 g | CC=1C=C(OC(C(=O)OC)=COC)C=CC1 | C12H14O4
reactant | N-bromosuccinimide | 8.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | methyl 2-(3-bromomethylphenoxy)-3-methoxyacrylate | 6.5 g | BrCC=1C=C(OC(C(=O)OC)=COC)C=CC1 | C12H13BrO4
